US07230011B2
6-Fluoro-5-methoxy-3-(1-methylpiperidin-4-yl)-1H-indole
A suspension of 6-fluoro-5-methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (15.7 mmole, 4.09 g) in tetrahydrofuran (30 mL) at room temperature was added sodium borohydride (31.4 mmole, 1.19 g). To this suspension was carefully added acetic acid (47.1 mmole, 2.83 g). Severe frothing occurred during the addition. The reaction was stirred at room temperature for 1.0 hours. To the heavy suspension was added 5N hydrochloric acid (30 mL). The resulting solution was stirred at room temperature for 1.0 hour. Reaction was reduced in volume, cooled to 0° C. and the pH was adjusted to >12 with 50% wt/wt sodium hydroxide. The reaction was extracted with ethyl acetate (3×25 mL), organic phases were combined, dried over sodium sulfate, filtered and concentrated in vacuo to a solid. The resulting material was subjected to Waters LC2000 normal phase chromatography, eluting with a linear gradient of 0 to 10% methanol containing 1% ammonium hydroxide:chloroform over a thirty minute period collecting 150 mL fractions. Fractions containing the title compound were combined, reduced in volume and set aside. The resulting crystals were collected by filtration to afford 2.30 g (82%) of the title compound: mass spectrum (ion spray): m/z=263 (M+1); 1H NMR (DMSOd6): 10.65 (s, 1H), 7.16 (d, 1H), 7.13 (d, 1H), 7.03 (d, 1H), 3.83 (s, 3H), 2.81 (m, 2H), 2.63 (m, 1H), 2.20 (s, 3H), 1.98 (m, 2H), 1.86 (m, 2H), 1.62 (m, 2H); Calculated for C15H19FN2O: C, 68.21; H, 7.33; N, 6.66. Found: C, 68.09; H, 6.95; N, 10.52.

reactant | 6-fluoro-5-methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 15.7 mmole, 4.09 g | FC1=C(C=C2C(=CNC2=C1)C=1CCN(CC1)C)OC | C15H17FN2O
reactant | sodium borohydride | 31.4 mmole, 1.19 g | [BH4-].[Na+]
reactant | acetic acid | 47.1 mmole, 2.83 g | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 5N, 30 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-Fluoro-5-methoxy-3-(1-methylpiperidin-4-yl)-1H-indole | 2.30 g, 82% | FC1=C(C=C2C(=CNC2=C1)C1CCN(CC1)C)OC | C15H19FN2O
